US08664210B2
(E)-3-[3-(R)-Pyrrolidinyl]oxyimino-4,4-dimethyl-5α,6α-epoxyandrostan-17β-ol hydrochloride (I-aw)
Prepared in 75% yield (51 mg) as described in Example 2 starting from 5α,6α-epoxy-17β-hydroxy-4,4-dimethylandrostan-3-one, (Preparation 8, 50 mg) and 3-(R)-pyrrolidinyloxyamine dihydrochloride (Preparation 12, 105 mg).

reactant | 5α,6α-epoxy-17β-hydroxy-4,4-dimethylandrostan-3-one | O1[C@]23[C@@H]1C[C@H]1[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]1[C@]3(CCC(C2(C)C)=O)C)O | C21H32O3
reactant | 3-(R)-pyrrolidinyloxyamine dihydrochloride | 105 mg | Cl.Cl.N1C[C@@H](CC1)ON
product | (E)-3-[3-(R)-Pyrrolidinyl]oxyimino-4,4-dimethyl-5α,6α-epoxyandrostan-17β-ol hydrochloride | 75% yield | Cl.N1C[C@@H](CC1)O\N=C/1\C([C@]23[C@H](C[C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)O)O3)(C)C | InChI=1S/C25H40N2O3.ClH/c1-22(2)19(27-30-15-9-12-26-14-15)8-11-24(4)18-7-10-23(3)17(5-6-20(23)28)16(18)13-21-25(22,24)29-21;/h15-18,20-21,26,28H,5-14H2,1-4H3;1H/b27-19+;/t15-,16+,17+,18+,20+,21+,23+,24-,25-;/m1./s1
